US06576789B1
2.7 g (110 mmol) of magnesium turnings were added to a solution of 2 g (11 mmol) of anthracene in 100 ml of THF, and a few drops of 1,2-dibromoethane were added. After the mixture had been stirred at room temperature for about 2 hours, the bright orange precipitate of magnesium anthracene had formed. A solution of 19 g (100 mmol) of 4-chlorobenzaldehyde dimethyl acetal in 100 ml of THF was added to the refluxing suspension over the course of 1 hour. After the mixture had refluxed for 4 hours, the yield of Mg 4-chlorobenzaldehyde dimethyl acetal according to GC analysis (determined as benzaldehyde after hydrolysis using dilute HCl) was 90%.

reactant | magnesium | 110 mmol, 2.7 g | [Mg] | Mg
reactant | anthracene | 11 mmol, 2 g | C1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H10
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | 1,2-dibromoethane | a few drops | BrCCBr | C2H4Br2
product | magnesium anthracene | C1=CC=CC2=CC3=CC=CC=C3C=C12.[Mg] | InChI=1S/C14H10.Mg/c1-2-6-12-10-14-8-4-3-7-13(14)9-11(12)5-1;/h1-10H;
